US08445674B2
E) 4-{2-[(2-tert-Butoxycarbonyl-ethyl)-(3-chloro-4-trifluoromethoxy-phenyl)-amino]-ethylamino}-butyric acid methyl ester
A solution of 0.50 g (1.3 mmol) of 3-[(3-chloro-4-trifluoromethoxy-phenyl)-(2-oxo-ethyl)-amino]-propionic acid tert-butyl ester in 6 ml dichloromethane was added dropewise to a cooled (0° C., pH ca. 5) suspension of 0.22 g (1.4 mmol) methyl 4-aminobutyrate hydrochloride, 0.18 ml (1.3 mmol) triethylamine, 0.15 ml (2.6 mmol) acetic acid and 0.32 g (1.5 mmol) sodium triacetoxyborohydride in 4 ml of dichloromethane and stirred 30 min at 0° C. The reaction was extracted with aqueous saturated NaHCO3/EtOAc (3×). The organic phases were washed with aqueous saturated NaHCO3 and dried over Na2SO4 to yield after evaporation of the solvent 0.61 g (83%) of the titled compound as yellow oil. MS: 483.19 (MH+, Cl).

reactant | 3-[(3-chloro-4-trifluoromethoxy-phenyl)-(2-oxo-ethyl)-amino]-propionic acid tert-butyl ester | 1.3 mmol, 0.50 g | C(C)(C)(C)OC(CCN(CC=O)C1=CC(=C(C=C1)OC(F)(F)F)Cl)=O | C16H19ClF3NO4
reactant | methyl 4-aminobutyrate hydrochloride | 1.4 mmol, 0.22 g | Cl.NCCCC(=O)OC
reactant | triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 2.6 mmol, 0.15 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.5 mmol, 0.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-{2-[(2-tert-Butoxycarbonyl-ethyl)-(3-chloro-4-trifluoromethoxy-phenyl)-amino]-ethylamino}-butyric acid methyl ester | COC(CCCNCCN(C1=CC(=C(C=C1)OC(F)(F)F)Cl)CCC(=O)OC(C)(C)C)=O | C21H30ClF3N2O5
